US04092150
To a stirred solution of 5.1 grams of 4,6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile in 100 ml of acetone, 2.3 grams of isopropylamine was added dropwise. The reaction mixture was then stirred at room temperature for 16 hours. The acetone was removed under reduced pressure, and the reaction mixture was extracted with a mixture of diethyl ether and water. The organic layer was separated and dried over magnesium sulfate. The solution was filtered, and the filtrate was evaporated under reduced pressure, yielding a residue. The residue was recrystallized from methylcyclohexane to give 2.7 grams of 4-chloro-2-(1-cyano-1-methylethylamino)-6-isopropylamino-5-pyrimidinecarbonitrile; mp, 144°-147°.

reactant | 4,6-dichloro-2-(1-cyano-1-methylethylamino)-5-pyrimidinecarbonitrile | 5.1 grams | ClC1=NC(=NC(=C1C#N)Cl)NC(C)(C)C#N | C9H7Cl2N5
reactant | isopropylamine | 2.3 grams | C(C)(C)N | C3H9N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-chloro-2-(1-cyano-1-methylethylamino)-6-isopropylamino-5-pyrimidinecarbonitrile | 2.7 grams | ClC1=NC(=NC(=C1C#N)NC(C)C)NC(C)(C)C#N | C12H15ClN6
